US04300942
Freshly prepared ethyl-N-[(benzylthio)carbonyl]-N-[dichlorophosphinylmethyl]-glycinate (11.3 g.; 0.029 mol.) dissolved in 100 ml. of diethyl ether was added to a solution containing n-butylamine (8.6 g.; 0.118 mol.) in 100 ml. of diethyl ether. The reaction mixture was stirred for 16 hours at 25° C., then filtered. The filtrate was washed with water, dried over magnesium sulfate and concentrated in vacuo to yield ethyl-N-[(benzylthio)carbonyl]-N-[bis(n-butylamino)phosphinylmethyl]-glycinate (12.5 g.) as a solid having a melting point of 45°-48° C., and the following analysis:

reactant | ethyl-N-[(benzylthio)carbonyl]-N-[dichlorophosphinylmethyl]-glycinate | 0.029 mol, 11.3 g | C(C)OC(CN(CP(=O)(Cl)Cl)C(=O)SCC1=CC=CC=C1)=O | C13H16Cl2NO4PS
reactant | n-butylamine | 0.118 mol, 8.6 g | C(CCC)N | C4H11N
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl-N-[(benzylthio)carbonyl]-N-[bis(n-butylamino)phosphinylmethyl]-glycinate | 12.5 g | C(C)OC(CN(CP(=O)(NCCCC)NCCCC)C(=O)SCC1=CC=CC=C1)=O | C21H36N3O4PS
